US06100416
reacting fluorenyllithium with 1,2-dibromoethane to produce 1-(9-fluorenyl)-2-bromoethane,

reactant | fluorenyllithium | C1(=CC=CC=2C3=CC=CC=C3CC12)[Li]
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
product | 1-(9-fluorenyl)-2-bromoethane | C1=CC=CC=2C3=CC=CC=C3C(C12)CCBr | C15H13Br
